Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
right ptosis w/enlarged pupil, right frontal headache

 
Major Surgical or Invasive Procedure:
LP
Bronchoscopy and biopsy

 
History of Present Illness:
___ RHW h/o sarcoid, HSVII on acyclovir, R uveitis x ___ yr
sent by opthalmologist's office for right frontal headache, 
right
enlarged pupil, minimally reactive and right ptosis.  ED checked
___ who did NOT dilate her eyes today.

Since ___ (~4 day), she's had worsening of her right frontal
headache, severity ___, relieved with ibuprofen.  At its
worst, the pain will radiate to the occiput and be a twisting
pain retro-orbitally on the right.  Denies diplopia,  
obscuration of vision or waking her from sleep.  Pt was seen at
routine ___ appt and noted to have right enlarged pupil
sluggishly reactive which is reportedly new and right ptosis so
was sent in to the ED.

Pt first began having right frontal headaches last ___ and 
then
noted erythema and blurry vision in her right eye in ___, a
month later.  She was evaluate by several doctors and eventually
was treated by Dr. ___ uveitis with improvement.  She had
been put on PO acyclovir for h/o of HSVII and decided to self dc
it and noted worsening erythema of the right eye.  She was told
by Dr. ___ she needed to continue daily PO acyclovir and
that the HSVII and right uveitis may be related.

She's also noticed right eyelid drooping intermittently since 
the
uveitis that does not worsen at the end of the day.  

In ED, headache improved after tylenol ___ to ___.  

ROS: Denies diplopia, pain w/eye movements, hearing changes,
vertigo, tingling, weakness, unsteadiness, incoordination, bowel
or bladder symptoms.  Reported having numbness in anterior right
forearm for 30 minutes in ED now resolved.  Has had tender
lesions on her right leg, ?tick bite vs erythema nodosum vs
trauma.

 
Past Medical History:
- right uveitis, as above
- sarcoidosis, pt got screening CXR last year as part of ___ then developed a cough early ___ for which she got a
repeat CXR which was abormal and was recently followed up by
chest CT which she was told was suggestive of sarcoid, also
reportedly had an elevated serum ACE recently. 
- G6PD
- HSVII dx'd ___ yrs ago, flares c/o lymph node swelling only,
currently not having a flare.
Dr. ___ PCP
___

 
Social History:
___
Family History:
- sister w/sarcoid for "yrs" followed by Dr. ___
- mat aunt w/brain aneurysm

 
Physical Exam:
T- 98.4  BP- 98/64  HR- 73  RR- 16  97 O2Sat RA
Gen: Lying in bed, NAD
HEENT: NC/AT, moist oral mucosa
Neck: No tenderness to palpation, normal ROM, supple, no carotid 
or vertebral bruit
Back: No point tenderness or erythema
CV: RRR, Nl S1 and S2, no murmurs/gallops/rubs
Lung: Clear to auscultation bilaterally
aBd: +BS soft, nontender
ext: no edema

Neurologic examination:
MS:
General:  alert, awake, normal affect 
Orientation:  oriented to person, place, date, situation
Attention: +MOYbw. Follows simple/complex commands.
___: fluent w/o paraphasic errors; comprehension, 
repetition, naming and reading intact
Memory: Registers ___ and Recalls ___ at 5 min L/R confusion: 
Touches left thumb to right ear
Praxis: Able to brush teeth

CN:
I: not tested
II,III:  VFF to confrontation, R pupil 5mm > L pupil 3mm 
anisocoria less pronounced in the dark, R pupil sluggishly 
reactive to light, ___ w/corrective lens ___ OD and ___ OS.
III,IV,V: EOMI, right ptosis not worsened w/sustained upgaze x1 
min. No nystagmus
V:  sensation intact V1-V3 to LT
VII:  facial strength intact/symmetrical
VIII:  hears finger rub bilaterally
IX,X:  palate elevates symmetrically, uvula midline
XI:  SCM/trapezeii ___ bilaterally
XII:  tongue protrudes midline, no dysarthria

Motor: Normal bulk and tone; no tremor, asterixis or myoclonus. 
No pronator drift.

   Delt Bi Tri WE     FE     Grip  IO
   C5   C6 C7  C6     C7     C8/T1 T1
L  5    ___      5      5     5
R  5    ___      5      5     5

   IP  Quad ___  ___    PF
   L2  L3   L4-S1 L4  L5     S1/S2
L  5   5    5     5   5      5
R  5   5    5     5   5      5

Reflex: No clonus
   Bi Tri Bra Pat An Plantar
   C5 C7  C6  L4  S1 CST
L  ___   2   2  Flexor
R  ___   2   2  Flexor

Sensation: Intact to light touch, pinprick, vibration and 
proprioception throughout. No extinction to DSS. Coordination: 
finger-nose-finger normal, heel to shin normal, RAMs normal.
Gait: Narrow based, steady.
Romberg: Negative

 
Pertinent Results:
___ 12:30PM BLOOD WBC-6.3 RBC-4.44 Hgb-13.6 Hct-39.4 MCV-89 
MCH-30.6 MCHC-34.5 RDW-17.7* Plt ___
___ 12:40PM BLOOD ___ PTT-29.2 ___
___ 12:30PM BLOOD ESR-58*
___ 12:30PM BLOOD Glucose-100 UreaN-13 Creat-0.8 Na-139 
K-4.3 Cl-100 HCO3-27 AnGap-16
___ 12:30PM BLOOD ALT-75* AST-59* AlkPhos-197* TotBili-0.7
___ 12:30PM BLOOD TotProt-8.0 Calcium-10.0 Phos-3.5 Mg-2.3
___ 12:30PM BLOOD VitB___-___*
___ 12:30PM BLOOD TSH-0.49
___ 03:45PM BLOOD Free T4-1.1
___ 12:30PM BLOOD CRP-16.8*
___ 10:21AM BLOOD ___
___ 12:30PM BLOOD PEP-NO SPECIFI
___ 06:43PM BLOOD ANGIOTENSIN 1 - CONVERTING ___      
___ 03:45PM BLOOD ACETYLCHOLINE RECEPTOR ANTIBODY-Test      

_
_
_
_
_
_
_
_
_
_
_
________________________________________________________________
CSF: 
                      WBC RBC Polys Lymphs Monos 
___ 06:55PM    01 0    02    753    25 
                     TotProt Glucose LD(LDH) 
___ 06:55PM    34    65      16 

Herpes Simplex Virus, Type 1 & 2 DNA, Real-Time PCR
  HSV 1 DNA                Not Detected                      Not 
Detected
  HSV 2 DNA                Not Detected                      Not 
Detected

Multiple Sclerosis Profile
 Cerebrospinal Fluid (CSF) IgG Index   0.39 Index                
<=0.85
 IgG, CSF                              2.68 mg/dL                
<=8.1
 Albumin, CSF                         20.10 mg/dL                
<=27.0
 IgG/Albumin, CSF                      0.13 ratio                
<-0.21
 Synthesis Rate, CSF                   0.00 mg/24 h              
<=12
 IgG, S                                1310 mg/dL              
___
 Albumin, S                            3820 mg/dL             
3200-4800
 IgG/Albumin, S                         0.3 ratio                
<=0.4
 Serum Bands                              1 bands
 CSF Bands                                2 bands
 CSF Olig Bands                           1 bands                
<4    
   FLUID CULTURE (Final ___:    NO GROWTH. 
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST CULTURE (Preliminary): 
      The sensitivity of an AFB smear on CSF is very low.. 
      If present, AFB may take ___ weeks to grow.. 
   VIRAL CULTURE (Preliminary):    No Virus isolated so far
CD23 ___     
CD45 ___     
___ ___     
___     
Kappa ___     
CD2 ___     
CD7 ___     
CD10 ___     
CD19 ___     
CD20 ___     
Lambda ___     
CD5 ___     
T SUBSETS & CD34 
CD3 ___     
FLOW CYTOMETRY 
Immunophenotyping ___ 
_
_
_
_
_
_
_
_
_
_
________________________________________________________________
RADIOLOGY:

1) MRI BRAIN: There is no acute infarction. There are scattered 
subcortical and periventricular hyperintensities which are 
nonspecific regarding etiology. Differential includes small 
vessel ischemic sequela in the setting of underlying diabetes or 
hypertension, vasculitis, Lyme disease or sarcoid amongst 
others. There is no hydrocephalus or pathologic enhancement. No 
orbital mass is seen. There is no cavernous sinus lesion. There 
is no evidence for aneurysm of the posterior communicating 
artery. There is no asymmetric enlargement of the superior 
ophthalmic vein. 
There is a small left maxillary sinus mucus retention cyst.

2) CT TORSO:
1. Massive conglomerate lymphadenopathy involving all 
mediastinal nodal stations including hilar, prevascular and 
subcarinal regions, consistent with the gieven diagnosis of 
sarcoidosis. There is no evidence of axillary, inguinal or other 
adenopathy which would be palpable.
2. No definite pulmonary parenchymal involvement by sarcoidosis.
3. Multiple non-pathologically enlarged nodes are noted within 
the abdomen, none of which meets CT size criteria for pathologic 
enlargement.
4. Fibroid uterus

3) MRI C-SPINE:
From craniocervical junction to T2-3 level no evidence of disc 
bulge, herniation or spinal stenosis identified. The facet 
joints are well aligned. The spinal cord shows normal intrinsic 
signal. There is no extrinsic spinal cord compression seen.
_
_
_
_
_
_
_
_
_
________________________________________________________________
BIOPSY RESULTS:
1.     Lymph node, subcarinal; needle core biopsy (A,B): 
Fragmented epithelioid granulomata. The histologic features are 
compatible with a diagnosis of sarcoidosis in the correct 
clinical setting. The histologic differential diagnosis also 
includes an infectious etiology and stains for micro-organisms 
are in process. The results will be reported in a separate 
addendum to this report. Correlation with the clinical findings 
is suggested.
2.     Lung, right upper lobe; endobronchial biopsy (C):
Scant fragments of respiratory mucosa with chronic inflammation, 
and soft tissue.
ADDENDUM:  
No fungal or mycobacterial organisms are identified on GMS or 
AFB stains, respectively (performed on block B). 
3. NEGATIVE FOR MALIGNANT CELLS.
4. FLOW CYTOMETRY IMMUNOPHENOTYPING: Non-specific T cell 
dominant lymphoid profile; diagnostic immunophenotypic features 
of involvement by non-Hodgkin B-cell lymphoma are not seen in 
specimen. Correlation with clinical findings and morphology (see 
___ and ___ is recommended. Flow cytometry 
immunophenotyping may not detect all lymphomas as due to 
topography, sampling or artifacts of sample preparation. 

 
Brief Hospital Course:
Ms. ___ was admitted to the Neurology Service for further 
evaluation. Her hospital course by problem is as follows:

1) Ptosis: Clinically, her ptosis and anisocoria improved. She 
was referred for MRI of the brain with thin cuts through the 
orbits as well as the brain stem. These images showed some 
non-specific periventricular ___ changes but no other vascular or 
structural abnormalities. She also underwent a vasculitis 
work-up with an LP and serum studies. The CSF studies were 
normal, including an MS panel and ACE. An anti-Ach ab was also 
sent to evaluate for MG, which is pending. Her serum studies 
were remarkable for a mild tranaminitis, and an elevated ESR 58 
and CRP 16. Thyroid studies were also checked and were wnl.

Her anisocoria was felt to be perhaps due to her use of eye 
drops which cause mydriasis for her glaucoma. As her symptoms 
improved, the etiology was not fully clear, however vasculitis 
and structural abnormalities were excluded. She was scheduled 
for outpatient EMG to further evaluate for MG and will also 
follow-up with Dr. ___ as an outpatient. She was also 
referred to Dr. ___ a ___ evaluation to 
further investigate these findings. 

2) Hilar Lymphadenopathy: Her CXR and CT torso showed prominent 
LAD, concerning for sarcoid or lymphoma. TB was also on the 
differential and a PPD was placed which was negative. A 
bronchoscopy was therefore arranged for tissue diagnosis. She 
underwent the procedure without difficulty and will follow-up 
with her PCP ___ as well as her pulmonologist Dr. ___ 
___ further treatment of her sarcoid.

3) Erythema Nodosum: Ms. ___ was noted to have 2 
hyperpigmented, tender plaques on her right shin and ankle. 
Dermatology was therefore consulted and diagnosed them as 
Erythema Nodosum, likely secondary to sarcoid. The recommended 
symptomatic treatment with Clobetasol ointment BID until healed 
completely (no more than two weeks), as well as continued ___ 
elevation as much as possible and NSAIDs prn for pain. 
 
Medications on Admission:
- inh steroids
- topical eye gtts (prednisolone 1%, cosopt, brimonidine 0.2% 
and
travatan)
- acyclovir

 
Discharge Medications:
1. Dorzolamide-Timolol ___ % Drops Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
2. Prednisolone Acetate 1 % Drops, Suspension Sig: One (1) Drop 
Ophthalmic Q6H (every 6 hours) as needed for discomfort.  
3. Brimonidine  Ophthalmic
4. Travoprost 0.004 % Drops Sig: One (1)  Ophthalmic QHS (once a 
day (at bedtime)).  
5. Clobetasol 0.05 % Ointment Sig: One (1) Appl Topical BID (2 
times a day).
Disp:*1 1 tubu* Refills:*0*
6. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
7. Valtrex  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hilar Lymphadenopathy
Erythema Nodosum
Ptosis

 
Discharge Condition:
Stable, decreased ptosis of the R eye

 
Discharge Instructions:
1. Please take all medications as prescribed
2. Please call your doctor or come to the closest ED if you 
develop new symptoms

 
Followup Instructions:
___